US07332485B2
(3S,5R)-3,5-Dimethyl-Cyclohexanecarboxylic Acid
2-((3S,5R)-3,5-Dimethyl-cyclohexylidene)-[1,3]dithiane (8.36 g, 0.036 mmol) and TFA (9.5 mL, 0.12 mol) were placed in acetonitrile (480 mL) and water (120 mL) and the mixture was heated at 65° C. for 1 h. 30% Aqueous hydrogen peroxide (48 mL, 0.49 mol) was added carefully and the mixture was warmed to 80° C. slowly. After 1 h, the reaction mixture was cooled to 40° C. and was added slowly to an aqueous solution of NaOH (6N, 475 mL). The resulting mixture was cooled to 0° C. and acidified with aqueous 6N HCl. The acetonitrile was removed by rotary evaporation. The residue was extracted with dichloromethane (100 mL×5) was dried (MgSO4) and was evaporated in vacuo to yield the title compound as a white wax (4.1 g, 72%). MH+157.

reactant | 2-((3S,5R)-3,5-Dimethyl-cyclohexylidene)-[1,3]dithiane | 0.036 mmol, 8.36 g | C[C@@H]1CC(C[C@@H](C1)C)=C1SCCCS1 | C12H20S2
reactant | TFA | 0.12 mol, 9.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | hydrogen peroxide | 0.49 mol, 48 mL | OO | H2O2
reactant | NaOH | 6N, 475 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | acetonitrile | 480 mL | C(C)#N | C2H3N
solvent | water | 120 mL | O | H2O
product | (3S,5R)-3,5-Dimethyl-Cyclohexanecarboxylic Acid | C[C@@H]1CC(C[C@@H](C1)C)C(=O)O | C9H16O2
